US06437132B2
Production of 3-Bromomethyl-7-(2,6-difluorobenzyl)-4,7-dihydro-5-isobutyryl-4-oxo-2-phenylthieno[2,3-b]pyridine
7-(2,6-Difluorobenzyl)-4,7-dihydro-5-isobutyryl-3-methyl-4-oxo-2-phenylthieno[2,3-b]pyridine (10 g), N-bromosuccinimide (4.86 g), 2,2′-azobis(2,4-dimethylvaleronitrile (0.56 g) and methyl acetate (100 ml) were mixed and the reaction mixture was heated under reflux for 2 hours. The reaction mixture was allowed to cool with stirring over a period of 2 hours, water (50 ml) was added and then the mixture was stirred with cooling on ice for 1.5 hours. The crystal precipitated was recovered by a filtration, washed with an ice-cooled methyl acetate (30 ml) and water (30 ml), dried in vacuo at 40° C. for 6 hours to obtain the title compound (10.61 g, 87.1%).

reactant | 7-(2,6-Difluorobenzyl)-4,7-dihydro-5-isobutyryl-3-methyl-4-oxo-2-phenylthieno[2,3-b]pyridine | 10 g | FC1=C(CN2C3=C(C(C(=C2)C(C(C)C)=O)=O)C(=C(S3)C3=CC=CC=C3)C)C(=CC=C1)F | C25H21F2NO2S
reactant | N-bromosuccinimide | 4.86 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,4-dimethylvaleronitrile | 0.56 g | CC(C#N)CC(C)C | C7H13N
reactant | methyl acetate | 100 ml | C(C)(=O)OC | C3H6O2
solvent | water | 50 ml | O | H2O
product | 3-Bromomethyl-7-(2,6-difluorobenzyl)-4,7-dihydro-5-isobutyryl-4-oxo-2-phenylthieno[2,3-b]pyridine | 10.61 g, 87.1% | BrCC1=C(SC=2N(C=C(C(C21)=O)C(C(C)C)=O)CC2=C(C=CC=C2F)F)C2=CC=CC=C2 | C25H20BrF2NO2S
